US08937092B2
To a stirred solution of ethyl 2-(4-iodo-3-methoxyphenyl)propanoate (626 mg, 1.873 mmol) in dimethylformamide were added zinc cyanide (227 mg, 1.929 mmol) and tetrakis(triphenylphosphine) palladium (216 mg, 0.1873 mmol). The reaction mixture was stirred for 36 h at 120° C., then cooled to room temperature, diluted with ethyl acetate. The mixture was filtered using celite pad. The filtrate dissolved in ethyl acetate and extracted with NaHCO3. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography. Ethyl 2-(4-cyano-3-methoxyphenyl)propanoate (222 mg) was obtained as 51% yield.

reactant | ethyl 2-(4-iodo-3-methoxyphenyl)propanoate | 1.873 mmol, 626 mg | IC1=C(C=C(C=C1)C(C(=O)OCC)C)OC | C12H15IO3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 1.929 mmol, 227 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine) palladium | 0.1873 mmol, 216 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Ethyl 2-(4-cyano-3-methoxyphenyl)propanoate | 222 mg, 51% yield | C(#N)C1=C(C=C(C=C1)C(C(=O)OCC)C)OC | C13H15NO3
